US06914060B2
3-Methyl-2-methylsulfanyl-3H-imidazo[2,1-f][1,2,4]triazin-4-one (0.81 g, 4.1 mmol) was suspended in ethanol (10 ml) and the mixture heated to 40° C. 6×1 ml pipette amounts of Raney-nickel (50 micron stored in water) were added in portions over 9 h. On complete addition the mixture was heated at 40° C. for a further 9 h. The mixture was allowed to cool to ambient temperature and the mixture filtered through Celite. The filtrate was evaporated and the residue purified by flash column chromatography on silica eluting with 2% methanol in dichloromethane. Collecting appropriate fractions gave 3-methyl-3H-imidazo[2,1-f][1,2,4]triazin-4-one (150 mg, 24%) as an off-white solid: δH (400 MHz, CDCl3) 3.59 (3H, s), 7.55 (1H, d, J1), 7.60 (1H, d, J1), 7.73 (1H, s).

reactant | 3-Methyl-2-methylsulfanyl-3H-imidazo[2,1-f][1,2,4]triazin-4-one | 4.1 mmol, 0.81 g | CN1C(=NN2C(C1=O)=NC=C2)SC | C7H8N4OS
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | Raney-nickel | [Ni] | Ni
product | 3-methyl-3H-imidazo[2,1-f][1,2,4]triazin-4-one | 150 mg, 24% | CN1C=NN2C(C1=O)=NC=C2 | C6H6N4O
